US08076358B2
Step A: (4,5-Difluoro-2-nitro-phenyl)-methanol
4,5-Difluoro-2-nitro-benzoic acid (3.05 g, 15 mmol) was combined with THF (20 mL), and then BH3 THF (35 mL) was added over 15 min. The resulting mixture was stirred overnight at 60° C. and then cooled to room temperature. Methanol was added, and the resulting mixture was stirred 15 min. The solvent was removed to yield an oil, which was purified by silica gel chromatography to yield a residue.

reactant | 4,5-Difluoro-2-nitro-benzoic acid | 15 mmol, 3.05 g | FC1=CC(=C(C(=O)O)C=C1F)[N+](=O)[O-] | C7H3F2NO4
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 35 mL | C1CCOC1 | C4H8O
solvent | Methanol | CO | CH4O
product | (4,5-Difluoro-2-nitro-phenyl)-methanol | FC1=CC(=C(C=C1F)CO)[N+](=O)[O-] | C7H5F2NO3
